US07238714B2
Step 1. 5-Fluoro-2-(3-fluorophenoxy)nicotinic acid
The title compound was prepared according to the procedure described in step 1 & 2 of Example 1 from 2-hydroxy-5-fluoronicotinic acid and 3-fluorophenol; 1H-NMR (DMSO-d6) δ 8.37 (1H, m), 8.23–8.15(1H, m), 7.49–7.35 (1H, m), 7.10–6.90 (3H, m).

reactant | 2-hydroxy-5-fluoronicotinic acid | OC1=C(C(=O)O)C=C(C=N1)F | C6H4FNO3
reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
product | 5-Fluoro-2-(3-fluorophenoxy)nicotinic acid | FC=1C=NC(=C(C(=O)O)C1)OC1=CC(=CC=C1)F | C12H7F2NO3
